US07807709B2
a. 4-Methoxy-3-(5-methyl-isoxazol-3-ylmethoxy)-benzoic acid ethyl ester
A mixture of 3-hydroxy-4-methoxy-benzoic acid (2.00 g, 10.2 mmol), 3-(chloromethyl)-5-methylisoxazole (1.61 g, 12.2 mmol; commercially available from Maybridge, SPB01262DA), anhydrous K2CO3 (2.11 g, 15.3 mmol) and Nal (0.31 g, 2.04 mmol) in MeCN (35 mL) is refluxed overnight. After cooling to room temperature, the mixture is filtered, the filtrate is diluted with CH2Cl2 and the organics are washed with aqueous 0.5M NaOH, water and brine. Drying over Na2SO4 and evaporation to dryness affords the crude title compound as oil. MS: 292.0 [M+H]+. tR (HPLC, Nucleosil C18HD column, 5-100% CH3CN/H2O/6 min, 100% CH3CN/2 min, CH3CN and H2O containing 0.1% TFA, flow: 1 mL/min): 4.14 min. 1H-NMR (CDCl3): δ 1.39 (t, 3H), 2.45 (s, 3H), 3.93 (s, 3H), 4.35 (q, 2H), 5.20 (s, 2H), 6.15 (s, 1H), 6.15 (dd, 1H), 6.90 (d, 1H), 7.70 (dd, 1H) ppm.

reactant | 3-hydroxy-4-methoxy-benzoic acid | 10.2 mmol, 2.00 g | OC=1C=C(C(=O)O)C=CC1OC | C8H8O4
reactant | 3-(chloromethyl)-5-methylisoxazole | ClCC1=NOC(=C1)C | C5H6ClNO
reactant | K2CO3 | 15.3 mmol, 2.11 g | C(=O)([O-])[O-].[K+].[K+]
reactant | Nal | 2.04 mmol, 0.31 g | N[C@@H](CC1=CC=C2C=CC=CC2=C1)C(=O)O | C13H13NO2
solvent | MeCN | 35 mL | CC#N | C2H3N
product | 4-Methoxy-3-(5-methyl-isoxazol-3-ylmethoxy)-benzoic acid ethyl ester | C(C)OC(C1=CC(=C(C=C1)OC)OCC1=NOC(=C1)C)=O | C15H17NO5
